US07288544B2
3) Synthesis of 4-(3,5-dichlorophenyl)-2,6-dimethyl-5-(piperazinylcarbonyl) nicotinic acid (3,3-diphenylpropyl) ester:
419 mg (0.595 mmol) of 4-[4-(3,5-dichlorophenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester was dissolved in 15 ml of dichloromethane. After adding 7 ml of trifluoroacetate under cooling with ice, the reaction mixture was stirred at room temperature for 2 hours. After concentration under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane) to obtain the title compound.

reactant | 4-[4-(3,5-dichlorophenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | 0.595 mmol, 419 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=CC(=CC(=C1)Cl)Cl)C(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C39H43Cl2N3O5
reactant | trifluoroacetate | 7 ml | FC(C(=O)[O-])(F)F
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-(3,5-dichlorophenyl)-2,6-dimethyl-5-(piperazinylcarbonyl) nicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=CC(=CC(=C1)Cl)Cl)C(=O)N1CCNCC1)C)C)=O)C1=CC=CC=C1 | C34H33Cl2N3O3
